US04115416
10 g of p-(1-cycloheptenyl)-phenol in a little absolute ethanol are first added to a solution of 1.6 g of sodium in 100 ml of absolute ethanol, which is stirred at room temperature whilst excluding water; 25.2 g of α-bromo-undecanoic acid ethyl ester are then added dropwise, the mixture is left at 50°C for 24 hours, the ethanol is removed in vacuo and the residue is partitioned between ether and ice-cold 1 N sodium hydroxide solution. The organic phase is washed until neutral, dried over sodium sulphate and concentrated by evaporation in vacuo. Crude α-[p-(1-cycloheptenyl)-phenoxy]-undecanoic acid ethyl ester boiling at 160° C/0.06 mm Hg is obtained in the evaporation residue.

reactant | p-(1-cycloheptenyl)-phenol | 10 g | C1(=CCCCCC1)C1=CC=C(C=C1)O | C13H16O
reactant | sodium | 1.6 g | [Na] | Na
reactant | water | O | H2O
reactant | α-bromo-undecanoic acid ethyl ester | 25.2 g | C(C)OC(C(CCCCCCCCC)Br)=O | C13H25BrO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | α-[p-(1-cycloheptenyl)-phenoxy]-undecanoic acid ethyl ester | C(C)OC(C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CCCCCC1)=O | C26H40O3
